US07098212B2
4-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-ylamino)-butyric acid ethyl ester
To a solution of 2-(3-amino-5-chloro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.072 g, 0.18 mmol) in ethanol (1 mL) was added 4-bromo-butyric acid ethyl ester (0.030 mL, 0.21 mmol), sodium bicarbonate (0.031 g, 0.37 mmol) and potassium iodide (˜0.030 g). The resulting solution was stirred at 70° C. for 18 hours. Additional bromo-butyric acid ethyl ester (0.030 mL, 0.21 mmol) was added and the reaction was stirred at 70° C. for 18 hours. The reaction was cooled, concentrated in vacuo and purified via flash chromatography on silica gel to give the title compound (0.034 g).

reactant | 2-(3-amino-5-chloro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.18 mmol, 0.072 g | NC=1C(=NC=C(C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C20H24ClFN4O2
reactant | 4-bromo-butyric acid ethyl ester | 0.21 mmol, 0.030 mL | C(C)OC(CCCBr)=O | C6H11BrO2
reactant | sodium bicarbonate | 0.37 mmol, 0.031 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | ˜0.030 g | [I-].[K+]
reactant | bromo-butyric acid ethyl ester | 0.21 mmol, 0.030 mL | C(C)OC(C(CC)Br)=O | C6H11BrO2
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 4-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-ylamino)-butyric acid ethyl ester | 0.034 g | C(C)OC(CCCNC=1C(=NC=C(C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C26H34ClFN4O4
